US05175311
Preparation of 1-Menthyl 2-Phenylcyclopropanecarboxylate
To a mixture of styrene (1.063 g, 10.2 mmol) and Rh2 (4R-BNOX)4 (0.0050 g, 0.0058 mmol) in 3.0 mL of refluxing anhydrous dichloromethane was added, by syringe at room temperature, 1-menthyl diazoacetate (0.109 g, 0.485 mmol) in 3.0 mL of dichloromethane under nitrogen and at an addition rate of 0.8 mL/h (syringe pump). After addition was complete, the dichloromethane solution was passed through a plug of neutral alumina, and solvent was removed under reduced pressure. The residue was analyzed by capillary gas chromatography (SPB-5 column) for diastereomeric separation and enantiomeric purity. Similar procedures were followed for the cyclopropanation of 3,3-dimethyl-1-butene, ethyl vinyl ether, and dihydropyran.

reactant | styrene | 10.2 mmol, 1.063 g | C=CC1=CC=CC=C1 | C8H8
reactant | 1-menthyl diazoacetate | 0.485 mmol, 0.109 g | [N+](=[N-])=CC(=O)OC1(CCC(CC1)C(C)C)C | C12H20N2O2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
product | 1-Menthyl 2-Phenylcyclopropanecarboxylate | C1(=CC=CC=C1)C1C(C1)C(=O)OC1(CCC(CC1)C(C)C)C | C20H28O2
